US06515124B2
To a solution of 3-cyanophenol (30 g, 0.252 mol) in ethanol (150 mL) at 25° C. under an atmosphere of nitrogen, was added 10% palladium on carbon (3 g) ) followed by concentrated hydrochloric acid solution (23 mL, 0.277 mol). The reaction mixture was hydrogenated at 50 psi in a Parr apparatus for 2.5 h and was then filtered over Celite® and washed well with ethanol (100 mL). The solvents were concentrated under reduced pressure and the resulting solid was placed under vacuum for 1 h. The solid was dissolved in 150 mL of hot ethanol, filtered and crystallized by adding diethyl ether. The solids were collected by filtration, washed well with diethyl ether and dried under vacuum 24 h to give 3-hydroxybenzylamine hydrochloride (28.88 g, 71% yield) as a colorless solid.

reactant | 3-cyanophenol | 0.252 mol, 30 g | C(#N)C=1C=C(C=CC1)O | C7H5NO
reactant | hydrochloric acid | 0.277 mol, 23 mL | Cl | ClH
solvent | ethanol | 150 mL | C(C)O | C2H6O
catalyst | palladium on carbon | 3 g | [Pd] | Pd
product | 3-hydroxybenzylamine hydrochloride | 28.88 g, 71% yield | Cl.OC=1C=C(CN)C=CC1 | InChI=1S/C7H9NO.ClH/c8-5-6-2-1-3-7(9)4-6;/h1-4,9H,5,8H2;1H
